US07371765B2
Using an analogous procedure to that described in Example 7, 4chloro-6-cyano-7-(3-(1,1-dioxothiomorpholino)propoxy)quinoline (100 mg, 0.26 mmol) was reacted with 2,3-dimethyl-5-hydroxyindole (51 mg, 0.32 mmol), (Arch. Pharm. 1972, 305, 159), to give 6-cyano-4-(2,3-dimethylindol-5-yloxy)-7-(3-(1,1-dioxothiomorpholino)propoxy)quinoline (85 mg, 64%).

reactant | 4chloro-6-cyano-7-(3-(1,1-dioxothiomorpholino)propoxy)quinoline | 0.26 mmol, 100 mg | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCCN1CCS(CC1)(=O)=O | C17H18ClN3O3S
reactant | 2,3-dimethyl-5-hydroxyindole | 0.32 mmol, 51 mg | CC=1NC2=CC=C(C=C2C1C)O | C10H11NO
product | 6-cyano-4-(2,3-dimethylindol-5-yloxy)-7-(3-(1,1-dioxothiomorpholino)propoxy)quinoline | 85 mg, 64% | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCN1CCS(CC1)(=O)=O)OC=1C=C2C(=C(NC2=CC1)C)C | C27H28N4O4S
